Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Transient left facial paresthesiae and left hand weakness

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ originally right-handed man with
history notable for CAD, CHF, HLD, and asthma transferred from
___ after presenting with transient left facial
paresthesiae and left hand weakness.

Mr. ___ reports onset of his symptoms shortly after lunch
yesterday, around 14:00. He noticed a "tingling" sensation at 
the
left corner of his mouth, which was associated with some
'slurring' of his speech, though he remained able to produce and
understand speech. He also noticed decreased strength in the
fingers of his left hand. The symptoms lasted for approximately
1.5 hours prior to resolution. He was evaluated by tele-stroke 
at
___, where tPA administration was deferred; CTA
demonstrated bilateral proximal ICA stenosis, however, prompting
transfer for further evaluation.

Mr. ___ denies a history of similar symptoms. He denies
associated headaches or adventitious movements with this 
episode,
but does note chronic neck pain s/p cervical spinal fusion which
has resulted in chronic right hand weakness and radicular pain 
in
his left arm.

 
Past Medical History:
CAD
CHF
HLD
Asthma 

 
Social History:
Retired ___ ___ officer working in ___ unit. Denies
tobacco or recreational drug use, reports drinking 4 alcoholic
beverages per week.

- Modified Rankin Scale:
[] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[x] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
Non-contributory.

 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
Vitals: T: 98.2  HR: 93  BP: 102/71  RR: 18  SpO2: 95% 2L NC
General: NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: warm, well-perfused
Pulmonary: no tachypnea or increased WOB
Abdomen: soft, NT
Extremities: warm, symmetric

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Attentive, able to
name ___ backward without difficulty. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact aside from "hammock" on stroke card. No 
dysarthria.
Able to follow both midline and appendicular commands.

- Cranial Nerves: PERRL (3 to 2 mm ___. VF full to number
counting. EOMI, no nystagmus. V1-V3 without deficits to light
touch or PP bilaterally. No facial movement asymmetry. Hearing
largely intact to conversation.  Palate elevation symmetric.
Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  No pronator drift.
  [Delt][Bic][Tri][ECR][FEx][IP][Quad][Ham][TA]
L   5     5    5    5    4+  5    5     5   5  
R   5     5    4+   5    1   5    5     5   5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  3+    3+     3+      0        1+
 R  3+    3+     3+      1+       1+ 
 Plantar response extensor bilaterally. 

- Sensory: Slight hyperesthesia to PP in palmar fingertips on
left, otherwise symmetric to LT and PP. No extinction to DSS.

- Coordination: No dysmetria with finger-to-nose testing
bilaterally.

- Gait: Deferred.

=======================
DISCHARGE PHYSICAL EXAM
=======================
General: NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: warm, well-perfused
Pulmonary: no tachypnea or increased WOB
Abdomen: soft, NT
Extremities: warm, symmetric

Neurologic Examination:
- Mental status: Awake, alert, cooperative. Speech is fluent 
with full
sentences and intact verbal comprehension. No dysarthria. Able 
to follow both midline and appendicular commands.

- Cranial Nerves: PERRL (3 to 2 mm ___. EOMI, no nystagmus. 
V1-V3 without deficits to light touch bilaterally. No facial 
movement asymmetry. Hearing
largely intact to conversation.  Palate elevation symmetric. 
Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  No pronator drift.
  [Delt][Bic][Tri][ECR][FEx][IP][Ham][TA]
L   5     5    4+   5    4+  5    5   5  
R   4+    5-   4    4    2   5    5   5  
 
- Reflexes: Deferred.

- Sensory: Symmetric to LT and PP. No extinction to DSS.

- Coordination: No dysmetria with finger-to-nose testing 
bilaterally.

- Gait: Deferred.
 
Pertinent Results:
___ 06:15AM BLOOD WBC-11.3* RBC-4.08* Hgb-13.5* Hct-40.0 
MCV-98 MCH-33.1* MCHC-33.8 RDW-13.2 RDWSD-47.9* Plt ___
___ 06:15AM BLOOD ___ PTT-27.7 ___
___ 06:15AM BLOOD Glucose-124* UreaN-28* Creat-0.9 Na-142 
K-4.4 Cl-100 HCO3-27 AnGap-15
___ 06:15AM BLOOD Calcium-8.9 Phos-4.2 Mg-2.2 Cholest-129
___ 06:50AM BLOOD %HbA1c-PND
___ 06:15AM BLOOD Triglyc-102 HDL-58 CHOL/HD-2.2 LDLcalc-51

___ 6:15 ___ MR HEAD W/O CONTRAST 
Tiny focus of diffusion abnormality in the right posterior 
frontal lobe 
indicates an acute infarct.  No evidence of micro hemorrhages or 
acute blood products. 

 
Brief Hospital Course:
___ originally right-handed man with history notable for 
CAD, CHF, HLD, and asthma transferred from ___ after 
presenting with transient left facial paresthesiae and left hand 
weakness.

Patient has baseline b/l arm more than leg weakness right more 
than left from cervical spondylosis. 

His CTA head and neck showed left greater than right ICA 
stenosis/plaque. While vascular surgery suggested dual 
antiplatelet therapy, we felt that his more severe carotid 
disease was on the asymptomatic side and felt that aspirin and 
atorvastatin would be more appropriate for secondary prevention. 
Carotid ultrasound showed <40% carotid stenosis bilaterally on 
preliminary read. 

He was started on aspirin 81mg daily. His Atorvastatin was 
originally increased to 80mg daily but then LDL returned at 51 - 
this was decreased back down to 40mg QHS. HBA1C pending at the 
time of discharge. 

MRI showed a punctate infarct in the right posterior frontal 
lobe. He can receive an outpatient echocardiogram since he 
wished to leave the hospital. This has been ordered in our 
system. 

TRANSITIONAL ISSUES
- Continue Atorvastatinto 40mg daily
- Started aspirin 81mg daily
- Outpatient Echocardiogram - ordered
- Outpatient follow-up with Vascular surgery
 
Medications on Admission:
1. Atorvastatin 40 mg PO QPM 
2. Celebrex ___ mg oral DAILY 
3. Furosemide 20 mg PO 3X/WEEK (___) 
4. Pregabalin 75 mg PO DAILY 
5. Sertraline 25 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM  
3.  Celecoxib 200 mg oral DAILY  
4.  Furosemide 20 mg PO 3X/WEEK (___)  
5.  Pregabalin 75 mg PO DAILY  
6.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic Stroke
 
Discharge Condition:
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
 
Discharge Instructions:
Dear Mr. ___, 

You were hospitalized due to symptoms of left face and hand 
weakness/numbness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. You had a very small stroke on 
MRI. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: 
High blood pressure
Diabetes
High cholesterol
 
We are changing your medications as follows:  
- Starting aspirin 81mg daily

Please continue to take your Atorvastatin. 

An echocardiogram has been ordered for you - please call  Tel: 
___ to schedule this study. It was ordered to occur 
within 7 days. 

Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___